US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 1 from 1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one (1.5 g, 0.007 moles), triethylamine (2.2 ml, 0.016 moles), and 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride (1.7 g, 0.0076 moles). Recrystallization from ethanol gave the product (1.6 g) as the monohydrochloride, 5:1 hydrate, mp 267° C. (dec).

reactant | 1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.007 moles, 1.5 g | C1C2=C(CNC1)C(OC1=C2C=CC=C1)=O | C12H11NO2
reactant | triethylamine | 0.016 moles, 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride | 0.0076 moles, 1.7 g | Cl.ClCCN1CC2CCC(C1)CC2
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 1.6 g | C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=CC=C2 | C22H28N2O2
